US06384051B1
6-Iodo-4-(3-methoxyphenylamino)quinoline-3-carbonitrile
Prepared from 1.00 g of 4-chloro-6-iodoquinoline-3-carbonitrile and 0.469 g of 3-methoxyaniline in the same manner as EXAMPLE 377. The crude product was filtered through silica gel with 20% EtOAc in CH2Cl2, evaporated and dried in vacuo (50° C.). The yield of 6-iodo-4-(3-methoxyphenylamino)quinoline-3-carbonitrile was 1.09 g as yellow crystals: mass spectrum (electrospray, m/e): M+H 401.9.

reactant | 4-chloro-6-iodoquinoline-3-carbonitrile | 1.00 g | ClC1=C(C=NC2=CC=C(C=C12)I)C#N | C10H4ClIN2
reactant | 3-methoxyaniline | 0.469 g | COC=1C=C(N)C=CC1 | C7H9NO
product | 6-Iodo-4-(3-methoxyphenylamino)quinoline-3-carbonitrile | IC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)OC | C17H12IN3O
